US07875645B2
rac-2-[1-(2-Iodo-phenyl)-ethyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(2-iodo-phenyl)-propionitrile and ethylene diamine in analogy to Example 19 b): white solid; MS (EI): 301.0 ((M+H)+.).

reactant | rac-2-(2-iodo-phenyl)-propionitrile | IC1=C(C=CC=C1)C(C#N)C | C9H8IN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(2-Iodo-phenyl)-ethyl]-4,5-dihydro-1H-imidazole | IC1=C(C=CC=C1)C(C)C=1NCCN1 | C11H13IN2
